US07485644B2
1-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-4-{[(E)-2-(tetrahydro-2H-pyran-4-yl)vinyl]sulfonyl}piperazine (3.13 g, 0.007 mol) was dissolved in THF (50 ml) and 50% hydroxylamine in H2O (12 ml) was added. Stirred at ambient temperature overnight, quenched with saturated NH4Cl solution and extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered and evaporated to dryness to yield racemic 1-{[2-(hydroxyamino)-2-(tetrahydro-2H-pyran-4-yl)ethyl]sulfonyl}-4-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]piperazine This was separated into its enantiomers using an AD Chiralpak chiral prep HPLC column and eluting with 20% methanol/acetonitrile. The second compound off the column gave the required enantiomer, 1-{[(2S)-2-(hydroxyamino)-2-(tetrahydro-2H-pyran-4-yl)ethyl]sulfonyl}-4-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]piperazine.

reactant | 1-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-4-{[(E)-2-(tetrahydro-2H-pyran-4-yl)vinyl]sulfonyl}piperazine | 0.007 mol, 3.13 g | FC(C(F)F)(OC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)\C=C\C1CCOCC1)F | C19H24F4N2O4S
reactant | hydroxylamine | NO | H3NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | H2O | 12 ml | O | H2O
product | racemic 1-{[2-(hydroxyamino)-2-(tetrahydro-2H-pyran-4-yl)ethyl]sulfonyl}-4-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]piperazine | ONC(CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)OC(C(F)F)(F)F)C1CCOCC1 | C19H27F4N3O5S
